US07037935B2
In an analogous manner to that described in Example 37b), the reduction of (E)-1-methoxy-3-[2-(4-nitrophenyl)ethenyl]-benzene using tin yields the (E)-4-[2-(3-methoxy-phenyl)-vinyl]-phenylamine as a brown oil; MS: m/e=226 (M+H)+.

reactant | (E)-1-methoxy-3-[2-(4-nitrophenyl)ethenyl]-benzene | COC1=CC(=CC=C1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C15H13NO3
reactant | tin | [Sn] | Sn
product | (E)-4-[2-(3-methoxy-phenyl)-vinyl]-phenylamine | COC=1C=C(C=CC1)/C=C/C1=CC=C(C=C1)N | C15H15NO
